US04269788
8 g. of methanesulfonic acid 2-(1-phenyl-2,5-cyclohexadien-1-yl)-propyl ester are dissolved in 10 ml. of toluene. 8.4 ml. (about 3 equivalents) of condensed diethylamine are added at -10° C. The mixture is subsequently held at 150° C. in a pressure vessel for 25 hours. After cooling, the toluene phases is washed with water, concentrated, treated with ether and 3 N aqueous hydrochloric acid and extracted. The aqueous phase is made basic with concentrated aqueous ammonia and extracted with ether. The combined ether phases are dried over sodium sulfate, filtered and concentrated completely. There is obtained an oily product which is chromatographed on silica gel with methylene chloride/methanol (10:1). There is obtained β-methyl-N,N-diethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine as an oily product. This product is converted as usual into the hydrochloride which, after recrystallization from ethanol/ether, has a melting point of 132°-137° C.

reactant | methanesulfonic acid 2-(1-phenyl-2,5-cyclohexadien-1-yl)-propyl ester | C1(=CC=CC=C1)C1(C=CCC=C1)C(COS(=O)(=O)C)C | C16H20O3S
reactant | diethylamine | C(C)NCC | C4H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | β-methyl-N,N-diethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | CC(CN(CC)CC)C1(C=CCC=C1)C1=CC=CC=C1 | C19H27N
